US07919504B2
Methyl 4-chlorothieno[2,3-c]pyridine-2-carboxylate.
3,5-Dichloroisonicotinaldehyde (20.39 g, 115.8 mmol) obtained from Aldrich was dissolved in 250 mL DMF. To this solution was added Cs2CO3 (12.9 g, 121.59 mmol) and then methyl 2-mercaptoacetate (56.6 g, 173.7 mmol). The mixture was stirred at room temperature for 3 hours. After removing 200 mL DMF under a reduced pressure, the remaining residue was mixed with 100 mL water. After filtration, the filter cake was washed thoroughly with water and air dried. An off-white solid was obtained as the pure product (23.15 g, y=88%). LCMS (API-ES) m/z (%): 228.2 (100%, M++H); 1H NMR (300 MHz, DMSO-d6) δ ppm 3.96 (s, 3H) 8.12 (s, 1H) 8.64 (s, 1H) 9.36 (s, 1H).

reactant | 3,5-Dichloroisonicotinaldehyde | 115.8 mmol, 20.39 g | ClC1=C(C=O)C(=CN=C1)Cl | C6H3Cl2NO
reactant | Cs2CO3 | 121.59 mmol, 12.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl 2-mercaptoacetate | 173.7 mmol, 56.6 g | SCC(=O)OC | C3H6O2S
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | Methyl 4-chlorothieno[2,3-c]pyridine-2-carboxylate | ClC1=C2C(=CN=C1)SC(=C2)C(=O)OC | C9H6ClNO2S
